US06743919B2
Synthesis [1-(4-Chloro-benzyl)-1H-indol-3-yl]-(4-pyridin-2-yl-1H-imidazol-2-yl)-methanone
To a stirred solution of [1-(4-Chloro-benzyl)-1H-indol-3-yl]-[4-pyridin-2-yl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-methanone (10 mg, 18.4 mmol) in Ethanol (3 mL) was added 5 drops of concentrated HCl. The resultant solution was heated to 70° C. for 10 hours. Volatile components were then removed under reduced pressure. Pure product [1-(4-Chloro-benzyl)-1H-indol-3-yl]-(4-pyridin-2-yl-1H-imidazol-2-yl)-methanone was precipitated out from diethyl ether (7 mg, 92%). 1H NMR (CD3OD/THF-d8): 5.7 (s, 2H), 7.2-7.5 (m, 7H), 7.9 (s, 1H), 8.45-8.65 (m, 3H), 8.85 (br, 1H), 9.85 (br, 1H). ESMS calcd for (C24H17ClN4O): 412.1; found: 413.1 (M+H)+.

reactant | [1-(4-Chloro-benzyl)-1H-indol-3-yl]-[4-pyridin-2-yl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-methanone | 18.4 mmol, 10 mg | ClC1=CC=C(CN2C=C(C3=CC=CC=C23)C(=O)C=2N(C=C(N2)C2=NC=CC=C2)COCC[Si](C)(C)C)C=C1 | C30H31ClN4O2Si
solvent | Ethanol | 3 mL | C(C)O | C2H6O
catalyst | HCl | 5 drops | Cl | ClH
product | [1-(4-Chloro-benzyl)-1H-indol-3-yl]-(4-pyridin-2-yl-1H-imidazol-2-yl)-methanone | ClC1=CC=C(CN2C=C(C3=CC=CC=C23)C(=O)C=2NC=C(N2)C2=NC=CC=C2)C=C1 | C24H17ClN4O
